US06316482B1
To a solution of benzyl 1-tert-butoxycarbonyl-3-formylindole-4-carboxylate (363 mg) in methanol (15 ml) was added sodium borohydride (109 mg) at 0° C. and the mixture was stirred for 5 minutes. The resulting mixture was diluted with water and the solution was neutralized with 1N hydrochloric acid. The solution was extracted with ethyl acetate, and then the organic solution was washed successively with saturated sodium bicarbonate aqueous solution and brine, dried over magnesium sulfate and concentrated in vacuo to afford benzyl 1-tert-butoxycarbonyl-3-hydroxymethylindole-4-carboxylate (365 mg).

reactant | benzyl 1-tert-butoxycarbonyl-3-formylindole-4-carboxylate | 363 mg | C(C)(C)(C)OC(=O)N1C=C(C=2C(=CC=CC12)C(=O)OCC1=CC=CC=C1)C=O | C22H21NO5
reactant | sodium borohydride | 109 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
solvent | water | O | H2O
product | benzyl 1-tert-butoxycarbonyl-3-hydroxymethylindole-4-carboxylate | 365 mg | C(C)(C)(C)OC(=O)N1C=C(C=2C(=CC=CC12)C(=O)OCC1=CC=CC=C1)CO | C22H23NO5
